US08084448B2
E. 5-[2-Benzyloxy-4-(4-phenylmethanesulfonylbutyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
The title compound is prepared from 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and (4-iodobutane-1-sulfonylmethyl)-benzene analogous to Example 571 step B.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | (4-iodobutane-1-sulfonylmethyl)-benzene | ICCCCS(=O)(=O)CC1=CC=CC=C1 | C11H15IO2S
product | 5-[2-Benzyloxy-4-(4-phenylmethanesulfonylbutyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CCCCS(=O)(=O)CC1=CC=CC=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C31H40N2O6S2Si
